US05589478
To a solution of 2-{6-amino-5-(4-methylphenyl)pyrimidin-4-yloxy}ethanol (7.54 g) in tetrahydrofuran (150 ml) is added sodium hydride (60% dispersion-type, 1.47 g), and thereto is added 5-bromo-2-chloropyrimidine (7.73 g), and the mixture is stirred at room temperature overnight. To the reaction solution is added saturated aqueous ammonium chloride solution, and the mixture is evaporated to remove the solvent. The precipitated crystals are collected by filtration, washed and dried. The crude crystals are purified by silica gel column chromatography (solvent; chloroform/methanol=100:1~80:1), and recrystallized from tetrahydrofuran/diethyl ether to give 6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-amine (11.27 g).

reactant | 2-{6-amino-5-(4-methylphenyl)pyrimidin-4-yloxy}ethanol | 7.54 g | NC1=C(C(=NC=N1)OCCO)C1=CC=C(C=C1)C | C13H15N3O2
reactant | sodium hydride | 1.47 g | [H-].[Na+]
reactant | 5-bromo-2-chloropyrimidine | 7.73 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-amine | 11.27 g | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)N)C1=CC=C(C=C1)C | C17H16BrN5O2
